US04131673
A solution of 3.5 g of ethyl 1-[N2 -(2-phenoxathiinylsulfonyl)-L-arginyl]-4-methyl-2-piperidinecarboxylate in 15 ml of methanol and 10 ml of 2N-NaOH solution was warmed to 30° C and held at that temperature for 10 hours. At the end of this period, the reaction mixture was concentrated and chromatographed on 200 ml of Daiaion® SK 102 ion exchange resin (200-300 mesh, H+ form, manufactured by Mitsubishi Chemical Industries Limited) packed in water, washed with ethanol-water (1:4) and eluted with ethanol-water-NH4OH (10:9:1). The main fraction was evaporated to dryness and washed with ether to give 1.0 g of 1-[N2 -(2-phenoxathiinylsulfonyl)-L-arginyl]-4-methyl-2-piperidinecarboxylic acid as an amorphous solid. I.R. (KBr): 3400, 1625, 1460, 1165 cm-1.

reactant | ethyl 1-[N2 -(2-phenoxathiinylsulfonyl)-L-arginyl]-4-methyl-2-piperidinecarboxylate | 3.5 g | C1=C(C=CC=2OC3=CC=CC=C3SC12)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N1C(CC(CC1)C)C(=O)OCC | C27H35N5O6S2
reactant | NaOH | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 1-[N2 -(2-phenoxathiinylsulfonyl)-L-arginyl]-4-methyl-2-piperidinecarboxylic acid | 1.0 g | C1=C(C=CC=2OC3=CC=CC=C3SC12)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N1C(CC(CC1)C)C(=O)O | C25H31N5O6S2
